US07371779B2
The crude product of ethyl 3-anilino-2-decenoate was mixed with diphenyl ether (50 ml) and heated under reflux for 30 minutes. The solution was cooled to room temperature and then diluted with petroleum ether (b.p. 60-80° C.; 200 ml). The mixture was stirred and the petroleum ether decanted off. The product was chromatographed on a silica column using 3% MeOH/CH2Cl2 as the mobile phase. 2-Heptyl-4(1H)-quinolone was obtained as a crystalline solid in 50% yield.

reactant | ethyl 3-anilino-2-decenoate | N(C1=CC=CC=C1)C(=CC(=O)OCC)CCCCCCC | C18H27NO2
solvent | diphenyl ether | 50 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 2-Heptyl-4(1H)-quinolone | 50% yield | C(CCCCCC)C=1NC2=CC=CC=C2C(C1)=O | C16H21NO
